US07456177B2
Preparation of 3,5,10-Triaza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-4-ylamine
Following the method described in Example 13, 10-benzyl-4-methyl-3,5,10-triaza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene and formamidine acetate were converted to the title compound in 18% overall yield. APCl MS m/z 177.1 (M+H)+.

reactant | 10-benzyl-4-methyl-3,5,10-triaza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene | C(C1=CC=CC=C1)N1CC2C=3C=NC(=NC3C(C1)C2)C | C17H19N3
reactant | formamidine acetate | C(C)(=O)O.C(=N)N
product | 3,5,10-Triaza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-4-ylamine | C12C=3N=C(N=CC3C(CNC1)C2)N | C9H12N4
